US07528134B2
2-(4-pyridin-2-ylpiperazin-1-yl)-N-(2-{[(4-pyridin-2-ylpiperazin-1-yl)acety]amino}phenyl)acetamide
The procedure described in Example 181 was followed, substituting 2-chloro-N-[2-(2-chloroacetylamino)phenyl]acetamide (Aldrich) for N-(2,5-dimethylphenyl)-2-chloroacetamide and using 2.4 equivalents of 1-pyridin-2-yl-piperazine to provide the title compound (74% yield) as a light tan solid. 1H NMR (300 MHz, DMSO-d6) δ 2.59 (m, 8H), 3.18 (s, 4H), 3.52 (m, 8H), 6.63 (dd, 2H, J=5.1, 5.1 Hz), 6.78 (d, 2H, J=8.5 Hz), 7.20 (dd, 2H, J=5.8, 3.4 Hz), 7.51 (dd, 2H, J=8.5, 8.5 Hz), 7.60 (dd, 2H, J=5.8, 3.7 Hz), 8.10 (d, 2H, J=3.7 Hz), 9.64 (br s, 2H); MS (DCI/NH3) m/e 515 (M+H)+; Anal. calcd for C28H34N8O2.0.4 C4H8O2.0.1 H2O: C, 64.44; H, 6.83; N, 20.31. Found: C, 64.42; H, 6.67; N, 20.12.

reactant | N-(2,5-dimethylphenyl)-2-chloroacetamide | CC1=C(C=C(C=C1)C)NC(CCl)=O | C10H12ClNO
reactant | 1-pyridin-2-yl-piperazine | 2.4 equivalents | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
product | 2-(4-pyridin-2-ylpiperazin-1-yl)-N-(2-{[(4-pyridin-2-ylpiperazin-1-yl)acety]amino}phenyl)acetamide | 74% yield | N1=C(C=CC=C1)N1CCN(CC1)CC(=O)NC1=C(C=CC=C1)NC(CN1CCN(CC1)C1=NC=CC=C1)=O | C28H34N8O2
